US07381719B2
6-(2-Phenethyl-1,2,3,4-tetrahydro-isoquinolin-6-yloxy)-nicotinamide
Combine 6-(1,2,3,4-tetrahydro-isoquinolin-6-yloxy)-nicotinamide (46.9 mg, 0.17 mmol), DMF (3 mL), Et3N (0.1 mL, 0.77 mmol), and phenethylbromide (52 uL, 0.38 mmol) in a 7 mL vial. Place the reaction vial on a shaker at 70° C. for 72 hours, and then add water and ethyl acetate. Wash the ethyl acetate layer several times with water, 10% LiCl, and dry over Na2SO4. Concentrate organic mixture and flash chromatograph using 30% THF, 4% 1.0 N NH3 in MeOH, 76% CH2Cl2 to afford 23.2 mg, (37% yield) of the title compound: MS m/z 374 (M+1).

reactant | 6-(1,2,3,4-tetrahydro-isoquinolin-6-yloxy)-nicotinamide | 0.17 mmol, 46.9 mg | C1NCCC2=CC(=CC=C12)OC1=NC=C(C(=O)N)C=C1 | C15H15N3O2
reactant | DMF | 3 mL | CN(C)C=O | C3H7NO
reactant | Et3N | 0.77 mmol, 0.1 mL | CCN(CC)CC | C6H15N
reactant | phenethylbromide | 0.38 mmol, 52 uL | C(CC1=CC=CC=C1)Br | C8H9Br
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 6-(2-Phenethyl-1,2,3,4-tetrahydro-isoquinolin-6-yloxy)-nicotinamide | 37% yield | C(CC1=CC=CC=C1)N1CC2=CC=C(C=C2CC1)OC1=NC=C(C(=O)N)C=C1 | C23H23N3O2
